US07582761B2
(a) Trifluoro-methanesulfonic acid isoquinolin-7-yl ester
7-Hydroxyisoquinoline (331 mg, 2.28 mmol, Lancaster) was treated with sodium hydride (75 mg, 3.13 mmol, Aldrich) and N-phenyltrifluoromethanesulfonimide (960 mg, 2.69 mmol, Aldrich) under the conditions of Example 132a to give the title compound as an amorphous solid. MS (ESI, pos. ion) m/z: 278 (M+1).

reactant | 7-Hydroxyisoquinoline | 2.28 mmol, 331 mg | OC1=CC=C2C=CN=CC2=C1 | C9H7NO
reactant | sodium hydride | 3.13 mmol, 75 mg | [H-].[Na+]
reactant | N-phenyltrifluoromethanesulfonimide | 2.69 mmol, 960 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
product | Trifluoro-methanesulfonic acid isoquinolin-7-yl ester | C1=NC=CC2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F | C10H6F3NO3S
